US06194406B1
1-(3,4,5-Trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenyl-2-oxopyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzyl)-3-(2-methanesulfonyloxyethyl)-3-phenyl-2-oxopyrrolidine and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(2-methanesulfonyloxyethyl)-3-phenyl-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(C2=CC=CC=C2)CCOS(=O)(=O)C)=O)C=C(C1OC)OC | C23H29NO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
product | 1-(3,4,5-Trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenyl-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)=O)C=C(C1OC)OC | C38H49N5O5
